US07652007B2
a) Cyclobutyl(2,2-diethoxyethyl)amine
A solution of 1.75 ml (11.65 mmol) of 1-bromo-2,2-diethoxyethane and 2 ml (23.3 mmol) of cyclobutylamine was heated at 80° C. in a closed vessel overnight. The reaction mixture was mixed with 40% NaOH (in H2O) and extracted, with ether. The organic phase was isolated, dried (MgSO4) and concentrated in vacuo. 2.39 g of substance were obtained as an orange liquid.

reactant | 1-bromo-2,2-diethoxyethane | 11.65 mmol, 1.75 ml | BrCC(OCC)OCC | C6H13BrO2
reactant | cyclobutylamine | 23.3 mmol, 2 ml | C1(CCC1)N | C4H9N
reactant | NaOH | [OH-].[Na+]
product | Cyclobutyl(2,2-diethoxyethyl)amine | C1(CCC1)NCC(OCC)OCC | C10H21NO2
